US07572820B2
1-[(5-Phenyl-1,2,4-oxadiazol-3-yl)methyl]-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole: MS (ES) m/z 369 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC=CC=C1 | C9H7ClN2O
product | 1-[(5-Phenyl-1,2,4-oxadiazol-3-yl)methyl]-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(=CC=CC=C1)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C19H11F3N4O
